US04734404
Into a Parr bottle containing 5.0 grams (24.8 mmol) of 2,5-dimethyl-6-chloro-4-nitrophenol in 40 milliliters of ethyl alcohol was added 0.5 grams of 5 percent platinum on carbon. This mixture was hydrogenated for 45 minutes in a Parr apparatus. The resulting solution was filtered over charcoal and Celite and the solvent was evaporated to afford 4.09 grams of 2,5-dimethyl-6-chloro-4-aminophenol having a melting point of 127° C.-128° C. Recrystallization from ethyl acetate and hexane afforded a product having a melting point of 129° C.-130° C. Elemental analysis of the product indicated the following:

reactant | 2,5-dimethyl-6-chloro-4-nitrophenol | 24.8 mmol, 5.0 grams | CC1=C(C(=C(C(=C1)[N+](=O)[O-])C)Cl)O | C8H8ClNO3
solvent | ethyl alcohol | 40 milliliters | C(C)O | C2H6O
catalyst | platinum on carbon | 0.5 grams | [Pt] | Pt
product | 2,5-dimethyl-6-chloro-4-aminophenol | 4.09 grams | CC1=C(C(=C(C(=C1)N)C)Cl)O | C8H10ClNO
